US07488733B2
2-(Cyclopentylmethyl)-4-[(3-fluorophenyl)amino]-6-oxo-1,6-dihydro-5-pyrimidinecarbonitrile
0.1 g (0.37 mmol) of methyl 2-cyano-3-[(3-fluorophenyl)amino]-3-(methylsulfanyl)-2-propenoate and 0.06 g (0.41 mmol) of 2-cyclopentylethanamidine hydrochloride are dissolved in 1 ml of DMF and heated with 0.11 g (0.82 mmol) of potassium carbonate at 90° C. overnight. After filtration, the solvent is removed in vacuo and the residue is purified by preparative HPLC (YMC Gel ODS-AQ S 5/15 μm; eluent A: water, eluent B: acetonitrile; gradient: 0 min 30% B, 5 min 30% B, 50 min 95% B) purified. 70 mg (59% of theory) of the product are obtained as a colorless solid.

reactant | methyl 2-cyano-3-[(3-fluorophenyl)amino]-3-(methylsulfanyl)-2-propenoate | 0.37 mmol, 0.1 g | C(#N)C(C(=O)OC)=C(SC)NC1=CC(=CC=C1)F | C12H11FN2O2S
reactant | 2-cyclopentylethanamidine hydrochloride | 0.41 mmol, 0.06 g | Cl.C1(CCCC1)CC(=N)N
reactant | potassium carbonate | 0.82 mmol, 0.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-(Cyclopentylmethyl)-4-[(3-fluorophenyl)amino]-6-oxo-1,6-dihydro-5-pyrimidinecarbonitrile | C1(CCCC1)CC=1NC(C(=C(N1)NC1=CC(=CC=C1)F)C#N)=O | C17H17FN4O
